US04877899
A mixture of 3-mercapto-1,2-propanediol (10.8 g), 3,3-dimethyl-1-butene (9.6 g) and 2,2'-azobis(2-methylpropionitrile) (0.5 g) is heated under reflux with vigorous stirring for 20 hours, then is diluted with hexane, extracted with water and stripped to give 3-(3,3-dimethylbutylthio)-1,2propanediol.

reactant | 3-mercapto-1,2-propanediol | 10.8 g | SCC(CO)O | C3H8O2S
reactant | 3,3-dimethyl-1-butene | 9.6 g | CC(C=C)(C)C | C6H12
reactant | 2,2'-azobis(2-methylpropionitrile) | 0.5 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | hexane | CCCCCC | C6H14
product | 3-(3,3-dimethylbutylthio)-1,2propanediol | CC(CCSCC(CO)O)(C)C | C9H20O2S
